US06265575B1
Part D. 2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl 4-Methoxyphenyl Ether
By essentially following the procedure detailed in Example 1, Part B, the title compound was prepared from 2-iodo-3-(4-methoxyphenoxy)benzo[b]thiophene (Part B) and (4-methoxyphenyl)boronic acid (Part C) in 70% yield following chromatography (SiO2; 5% EtOAc in hexanes).

reactant | 2-iodo-3-(4-methoxyphenoxy)benzo[b]thiophene | IC1=C(C2=C(S1)C=CC=C2)OC2=CC=C(C=C2)OC | C15H11IO2S
reactant | (4-methoxyphenyl)boronic acid | COC1=CC=C(C=C1)B(O)O | C7H9BO3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-Methoxyphenyl)benzo[b]thiophen-3-yl 4-Methoxyphenyl Ether | 70% yield | COC1=CC=C(C=C1)OC=1C2=C(SC1C1=CC=C(C=C1)OC)C=CC=C2 | C22H18O3S
